US09029366B2
Di-tert-butyl azodicarboxylate (1.07 g, 4.66 mmol) was added to a stirred solution of triphenylphosphine (1.22 g, 4.66 mmol), tert-butyl N-(2-hydroxyethyl)carbamate (0.8 mL, 5.18 mmol) and ethyl 5-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-3-carboxylate (0.7 g, 2.59 mmol) in THF (22 mL). The mixture was stirred at 80° C. for 16 hours and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in heptane 0/100 to 30/70). The desired fractions were collected and the solvents evaporated in vacuo to yield ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-5-carboxylate (1.01 g, 94% yield) as a white solid.

reactant | Di-tert-butyl azodicarboxylate | 4.66 mmol, 1.07 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 4.66 mmol, 1.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl N-(2-hydroxyethyl)carbamate | 5.18 mmol, 0.8 mL | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | ethyl 5-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-3-carboxylate | 2.59 mmol, 0.7 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=NN1)C(=O)OCC | C12H22N2O3Si
solvent | THF | 22 mL | C1CCOC1 | C4H8O
product | ethyl 1-{2-[(tert-butoxycarbonyl)amino]ethyl}-3-{[tert-butyl(dimethyl)silyl]oxy}-1H-pyrazole-5-carboxylate | 1.01 g, 94% yield | C(C)(C)(C)OC(=O)NCCN1N=C(C=C1C(=O)OCC)O[Si](C)(C)C(C)(C)C | C19H35N3O5Si
